US07875636B2
To a 5° C. solution of 5.00 mL (60.9 mmol) n-methylpyrazole in 100 ml THF was added dropwise 381 mL (60.9 mmol) 1.6M n-BuLi in hexanes. The reaction mixture was warmed to room temperature, and after 1 hr at room temperature, the reaction mixture was cooled to −78° C. 18.4 mL (79.0 mmol) isopropyl borate was added. After 1.00 h at −78° C., the reaction mixture was quenched with 12.0 mL of 2N HCl. The resulting solution was concentrated in vacuo and azotroped with toluene. The resulting crude material was dissolved in 11 mL THF. 6.57 g (55.6 mmol) pincol and 1.00 g of molecular sieves were added. After 24.0 hr at room temperature, the reaction mixture was filtered and concentrated. The resulting residue was dissolved in 100 mL hexanes, washed twice with water, dried over NaSO4, filtered, and concentrated in vacuo to afford 5.90 g (51%) 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole. 1H NMR (CD3OD, 400 MHz) 7.45 (d, 1H, J=1.92); 7.67 (d, 2H, J=1.92 Hz); 4.04 (s, 3H); 1.35 (s, 12H). ESMS+1 for C10H17BN2O2: 209.1. To a sealed vessel containing 9.20 g (19.8 mmol) 2-(4-iodophenyl)-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide, 4.95 g (23.8 mmol) 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole, 0.133 g (0.476 mmol) tricyclohexylphosphine, and 0.181 g (0.198 mmol) Pd2(dba)3 was added 52.8 mL dioxane and 26.5 mL of 1.27M K3PO4. After 12.0 h at 100° C., the reaction mixture was cooled to room temperature and extracted three times with CH2Cl2 and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 50-100% EtOAc:hexane). The resulting solid was recrystallized from n-butylchloride to afford 5.00 g (60%) 2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide. 1H NMR (CDCl3, 400 MHz) 8.23 (d, 1H, J=2.74 Hz); 7.51 (d, 1H, J=1.83 Hz); 7.38 (m, 4H); 7.22 (m, 2H); 6.79 (br d, 1H, J=7.15 Hz); 6.30 (d, 1H, J=2.01 Hz); 5.13 (m, 1H); 4.38 (q, 2H, J=8.05 Hz); 3.90 (s, 3H); 3.63 (s, 2H); 1.43 (d, 3H, J=6.78). HRMS (ES) exact mass calcd for C21H21F3N4O2: 419.1682, Found: 419.1690.

reactant | n-methylpyrazole | 60.9 mmol, 5.00 mL | CN1N=CC=C1 | C4H6N2
reactant | n-BuLi | 60.9 mmol, 1.6M, 381 mL | [Li]CCCC
reactant | isopropyl borate | 79.0 mmol, 18.4 mL | B(OC(C)C)([O-])[O-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 5.90 g, 51% | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
